US04217306
Substitution of equivalent quantities of α-(o-fluorophenyl)-α-[2-(diisopropylamino)ethyl]acetonitrile and 1-(2-chloroethyl)-2,6-dimethylpiperidine in the procedure of Example 2, Method B, and substantial repetition of the procedure detailed therein, affords α-(o-fluorophenyl)-α-[2-(diisopropylamino)ethyl]-α-[2-(2,6-dimethyl-1-piperidinyl)ethyl]acetonitrile, as an oil boiling at about 170°-175° C. at 0.3 mm. pressure.

reactant | α-(o-fluorophenyl)-α-[2-(diisopropylamino)ethyl]acetonitrile | FC1=C(C=CC=C1)C(C#N)CCN(C(C)C)C(C)C | C16H23FN2
reactant | 1-(2-chloroethyl)-2,6-dimethylpiperidine | ClCCN1C(CCCC1C)C | C9H18ClN
product | α-(o-fluorophenyl)-α-[2-(diisopropylamino)ethyl]-α-[2-(2,6-dimethyl-1-piperidinyl)ethyl]acetonitrile | FC1=C(C=CC=C1)C(C#N)(CCN1C(CCCC1C)C)CCN(C(C)C)C(C)C | C25H40FN3
